US04031063
Preparation of Tetramethylterephthaloyl Chloride
To a 500 ml. three-necked flask equipped with stirrer, reflux condenser and nitrogen inlet is added 100 grams tetramethylterephthalic acid and 200 ml. thionyl chloride. The mixture is stirred at reflux of 6 hours during which time the acid dissolves and a mixture of sulfur dioxide and hydrogen chloride is evolved. At the end of this period the excess thionyl chloride is removed by distillation. The crude tetramethylterephthaloyl chloride is recrystallized twice from cyclohexane.

reactant | tetramethylterephthalic acid | 100 grams | CC1=C(C(=C(C(=C1C(=O)O)C)C)C(=O)O)C | C12H14O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrogen chloride | Cl | ClH
product | Tetramethylterephthaloyl Chloride | CC1=C(C(=C(C(=C1C(=O)Cl)C)C)C(=O)Cl)C | C12H12Cl2O2
